US07465749B2
A reactor was charged with triazole (104 g, 1.5 moles) and bromo-bis(4-cyanophenyl)methane (108 g, 0.6 mole) followed by addition of DMF (720 ml) and toluene (1080 ml), and the impeller speed was set at 800 RPM. The temperature was raised to 60° C. and potassium carbonate was added (83.5 g, 0.6 mole). Then, the temperature was raised to 80° C. and mixing was maintained at this temperature during about 1.5 hours. An aliquot was withdrawn from the reaction mixture, diluted with a mixture of water and acetonitrile and analyzed by HPLC. The letrozole content was 83%, the isoletrozole content was 11.4%, while the content of 4,4′-dicyanobenzophenone was 1.6%. After cooling to a temperature of 25° C., acetic acid (57.6 ml) was added. DMF (414 ml) and water (1760 ml) were added to the reaction mixture to form a suspension (two liquid phases and a solid inter-phase in between). After heating the suspension to 60° C. the resulting mixture was allowed to cool to 25° C. for one hour and then the mixture was cooled to 20° C. and mixed at that temperature for 2 hours. The precipitated crystals were washed with water (80 ml) and dried to obtain 120.5 g of crude letrozole in 70.5% yield, having a purity of 96% by HPLC, (containing 3.5% isoletrozole).

reactant | triazole | 1.5 moles, 104 g | N1N=NC=C1 | C2H3N3
reactant | bromo-bis(4-cyanophenyl)methane | 0.6 mole, 108 g | BrC(C1=CC=C(C=C1)C#N)C1=CC=C(C=C1)C#N | C15H9BrN2
reactant | DMF | 720 ml | CN(C)C=O | C3H7NO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 1080 ml | C1(=CC=CC=C1)C | C7H8
product | letrozole | 120.5 g, 70.5% yield | C1=CC(=CC=C1C#N)C(C=2C=CC(=CC2)C#N)N3C=NC=N3 | C17H11N5
